US04916152
To a solution of (2S,4R)-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-diethoxyphosphoryl-1-pentenyl]pyrrolidine (146 mg) in dichloromethane (5.0 ml) was added bromotrimethylsilane (0.1 ml) and the mixture was stirred at room temperature for 3 hours. After the mixture was evaporated to dryness, the residue was dissolved in acetone (5 ml), and water (20 μl) was added thereto. The mixture was stirred at room temperature for 1 hour and the solvent was evaporated in vacuo. The residue was solidified with a mixture of chloroform and water to give (2S,4R)-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-phosphono-1-pentenyl]pyrrolidine (70 mg) as a powder.

reactant | (2S,4R)-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-diethoxyphosphoryl-1-pentenyl]pyrrolidine | 146 mg | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)\C=C/CCCP(=O)(OCC)OCC | C25H33Cl2N2O7PS2
reactant | bromotrimethylsilane | 0.1 ml | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
product | (2S,4R)-1-(4-chlorophenylsulfonyl)-4-(4-chlorophenylsulfonylamino)-2-[(Z)-5-phosphono-1-pentenyl]pyrrolidine | 70 mg | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](C[C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)Cl)\C=C/CCCP(=O)(O)O | C21H25Cl2N2O7PS2
